US04416880
2-(2,3,6-Trichlorobenzylidene)-3-oxo-4-chlorobutyric acid ethyl ester
210 g of 2,3,6-trichlorobenzaldehyde were reacted with 4-chloroacetoacetic acid ethyl ester as described in Example 43. 213 g of a 3:1 isomer mixture were obtained as an oily crude product.

reactant | 2,3,6-trichlorobenzaldehyde | 210 g | ClC1=C(C=O)C(=CC=C1Cl)Cl | C7H3Cl3O
reactant | 4-chloroacetoacetic acid ethyl ester | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
product | 2-(2,3,6-Trichlorobenzylidene)-3-oxo-4-chlorobutyric acid ethyl ester | C(C)OC(C(C(CCl)=O)=CC1=C(C(=CC=C1Cl)Cl)Cl)=O | C13H10Cl4O3
